US09290476B2
Ethyl 3-benzyl-2,4-dimethylquinoline-6-carboxylate
A mixture of ethyl 3-benzyl-2,4-dibromoquinoline-6-carboxylate (0.245 g, 0.545 mmol, Intermediate 34: step a), 2,4,6-trimethyl-1,3,5,2,4,6-trioxatriborinane (0.229 mL, 1.64 mmol), and 5 M aqueous K2CO3 (0.436 mL, 2.18 mmol) was treated with Pd(PPh3)4 (63 mg, 0.055 mmol) and dioxane (3 mL). This was microwaved under argon at 140° C. for 15 minutes (Biotage Initiator). The reaction was diluted with 1:1 heptane/EtOAc (5 mL), filtered, and the organic layer was dried (Na2SO4), filtered, and concentrated. The residue was flash chromatographed with a heptane to 70% EtOAc/heptane gradient to provide the title compound as a clear amber oil that crystallized upon standing.

reactant | ethyl 3-benzyl-2,4-dibromoquinoline-6-carboxylate | C(C1=CC=CC=C1)C=1C(=NC2=CC=C(C=C2C1Br)C(=O)OCC)Br | C19H15Br2NO2
reactant | 2,4,6-trimethyl-1,3,5,2,4,6-trioxatriborinane | 1.64 mmol, 0.229 mL | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | K2CO3 | 2.18 mmol, 5 M, 0.436 mL | C(=O)([O-])[O-].[K+].[K+]
reactant | dioxane | 3 mL | O1CCOCC1 | C4H8O2
reactant | heptane EtOAc | 5 mL | CCCCCCC.CCOC(=O)C
catalyst | Pd(PPh3)4 | 0.055 mmol, 63 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Ethyl 3-benzyl-2,4-dimethylquinoline-6-carboxylate | C(C1=CC=CC=C1)C=1C(=NC2=CC=C(C=C2C1C)C(=O)OCC)C | C21H21NO2
